US07635684B2
3-(β-D-Glucopyranosyloxy)-4-{[4-(3-{3-[2-hydroxy-1,1-di-(methyl)ethyl]ureido}propoxy)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole
The title compound was prepared in a similar manner to that described in Example 19 using 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-aminopropoxy)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole and 2-amino-2-methyl-1-propanol instead of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-aminopropoxy)phenyl]methyl}-5-isopropyl-1H-pyrazole and 4-(2-aminoethyl)morpholine, respectively.

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-aminopropoxy)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCCN)C)C(C)C | C31H43N3O11
reactant | 2-amino-2-methyl-1-propanol | NC(CO)(C)C | C4H11NO
reactant | 4-(2-aminoethyl)morpholine | NCCN1CCOCC1 | C6H14N2O
product | 3-(β-D-Glucopyranosyloxy)-4-{[4-(3-{3-[2-hydroxy-1,1-di-(methyl)ethyl]ureido}propoxy)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCCNC(=O)NC(CO)(C)C)C)C(C)C | C28H44N4O9
